US08440689B2
B. (R)-2-(4-(5-Cyanothiophen-2-yl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide
A solution of (R)-2-(4-(5-cyanothiophen-2-yl)-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide (68 mg, 0.126 mmol) in TFA (2 mL) was heated to 65° C. for 3 h. After removal of the solvent, the resulting crude material was reconstituted in MeOH/DCM (3.0 mL) and purified via preparative HPLC eluting with water (0.05% TFA) and ACN (40%, 0.035% TFA). The collected fractions were combined and the solvent was removed via rotary evaporation to yield the title compound (8.3 mg, 17%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.86-0.96 (m, 6H), 1.53-1.62 (m, 1H), 1.67-1.88 (m, 2H), 4.45 (s, 2H), 4.50-4.57 (m, 1H), 6.96-7.06 (m, 1H), 7.32-7.54 (m, 2H), 7.86-8.02 (m, 1H), 8.61 (s, 1H), 9.00-9.15 (m, 1H). [M+H] calc'd for C18H18FN5O2S, 388. found, 388.

reactant | (R)-2-(4-(5-cyanothiophen-2-yl)-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 0.126 mmol, 68 mg | C(#N)C1=CC=C(S1)C1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)N)CC(C)C | C27H28FN5O4S
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-2-(4-(5-Cyanothiophen-2-yl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 8.3 mg, 17% | C(#N)C1=CC=C(S1)C1=NC(=C(C2=C1C(NC2)=O)F)N[C@@H](C(=O)N)CC(C)C | C18H18FN5O2S
